US07598384B2
2-Phenoxy-7-phenyl-7,8-dihydro-6H-quinolin-5-one hydrochloride
In analogy to the procedure described in Example 9, 2-chloro-7-phenyl-7,8-dihydro-6H-quinolin-5-one was treated with phenol to give the title compound as a colorless solid.

reactant | 2-chloro-7-phenyl-7,8-dihydro-6H-quinolin-5-one | ClC1=NC=2CC(CC(C2C=C1)=O)C1=CC=CC=C1 | C15H12ClNO
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 2-Phenoxy-7-phenyl-7,8-dihydro-6H-quinolin-5-one hydrochloride | Cl.O(C1=CC=CC=C1)C1=NC=2CC(CC(C2C=C1)=O)C1=CC=CC=C1 | InChI=1S/C21H17NO2.ClH/c23-20-14-16(15-7-3-1-4-8-15)13-19-18(20)11-12-21(22-19)24-17-9-5-2-6-10-17;/h1-12,16H,13-14H2;1H
